US07601716B2
1-[1-(2-Chloro-3,6-difluorophenyl)ethyl]-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (2.935 g) was treated with 2-(1-bromoethyl)-3-chloro-1,4-difluorobenzene (Preparation 3) as in General Procedure 1 to give the title compound as an orange solid (11% yield). LCMS: m/z=449.86 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.79 (3H, m), 2.73 (1H, s), 2.89 (1H, s), 5.76 (1H, m), 6.96 (1H, s), 7.29 (1H, m), 7.43 (1H, m), 7.62 (1H, s), 7.83 (1H, m).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 2.935 g | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2-(1-bromoethyl)-3-chloro-1,4-difluorobenzene | BrC(C)C1=C(C=CC(=C1Cl)F)F | C8H6BrClF2
product | 1-[1-(2-Chloro-3,6-difluorophenyl)ethyl]-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 11% yield | ClC1=C(C(=CC=C1F)F)C(C)N1C2=C(NCC1=O)N=CC(=C2)I | C15H11ClF2IN3O
